US04482720
A 55 gal. reactor was filled with 40 gallons sodium mercaptobenzothiazole (9.69 g./100 ml.). The agitator was set at 335 RPM and a Beckman pH combination probe and a Beckman redox combination probe were immersed in the solution. Sodium hydroxide solution, 1.95N, was pumped in at 0.26 gal./min. and vaporized chlorine fed in until the pH was 8.9 and the redox potential was +90 mv. Sodium mercaptobenzothiazole solution (0.69 g./100 ml.) was then pumped in at 25° C. at a rate of 47.5 gal./min. The sodium hydroxide solution and chlorine flow were controlled to maintain the pH between 8.9 and 9.4 and the redox potential between +90 mv. and 150 mv. A slurry of benzothiazyl disulfide at 49° C. was continuously withdrawn at the overflow. After a steady state condition was obtained, benzothiazyl disulfide was produced at a yield of 99.4% having a purity of 96%.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | chlorine | ClCl | Cl2
reactant | Sodium mercaptobenzothiazole | 100 ml, 0.69 g | SC=1SC2=C(N1)C=CC=C2.[Na]
reactant | sodium mercaptobenzothiazole | 40 gallons, 9.69 g | SC=1SC2=C(N1)C=CC=C2.[Na]
product | benzothiazyl disulfide | yield of 99.4% | C=1C=CC2=C(C1)N=C(S2)SSC3=NC=4C=CC=CC4S3 | C14H8N2S4
